US09079866B2
4′-(6-Aminopyridazin-3-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 444 using N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide and 6-chloropyridazin-3-amine. MS (ESI): mass calcd. for C20H21FN4O2S, 400.14; m/z found, 401.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.26-8.22 (m, 1H), 8.16-8.13 (m, 1H), 7.91-7.85 (m, 1H), 7.69-7.64 (m, 1H), 7.63-7.56 (m, 2H), 7.44-7.37 (m, 3H), 1.09 (s, 9H).

reactant | N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C22H29BFNO4S
reactant | 6-chloropyridazin-3-amine | ClC1=CC=C(N=N1)N | C4H4ClN3
product | 4′-(6-Aminopyridazin-3-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide | NC1=CC=C(N=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F | C20H21FN4O2S
